US08623889B2
To a solution of 5-bromo-4-methylnicotinic acid (223.4 mg, 1.034 mmol) in methylene chloride (3.0 mL, 47 mmol) and methanol (3.0 mL, 74 mmol) was added 2.0 M of trimethylsilyldiazomethane in ether (0.70 mL). The reaction mixture was stirred at room temperature for one hour, and then 2.0 M of trimethylsilyldiazomethane in ether (0.50 mL) was added. After an additional two hours, the crude reaction mixture was evaporated in vacuo to yield 237.2 mg (100%) of methyl 5-bromo-4-methylnicotinate which was carried forward without further purification. LCMS (ESI): M+H=230.2; 1H NMR (400 MHz, DMSO-d6) δ 8.86 (s, 1H), 8.82 (s, 1H), 3.89 (s, 3H), 2.58 (s, 3H).

reactant | 5-bromo-4-methylnicotinic acid | 1.034 mmol, 223.4 mg | BrC=1C=NC=C(C(=O)O)C1C | C7H6BrNO2
reactant | methylene chloride | 47 mmol, 3.0 mL | C(Cl)Cl | CH2Cl2
reactant | methanol | 74 mmol, 3.0 mL | CO | CH4O
reactant | trimethylsilyldiazomethane | 2.0 M | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | trimethylsilyldiazomethane | 2.0 M | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | ether | 0.70 mL | CCOCC | C4H10O
solvent | ether | 0.50 mL | CCOCC | C4H10O
product | methyl 5-bromo-4-methylnicotinate | 237.2 mg, 100% | BrC=1C=NC=C(C(=O)OC)C1C | C8H8BrNO2
